US07683064B2
2-(3-Bromo-phenyl)-6-dimethylamino-3,4-dihydro-2H-isoquinolin-1-one (163 mg, 0.472 mmol), bis(pinacolato)diboron (144 mg, 0.567 mmol), and potassium acetate (138 mg, 1.42 mmol) were deposited in a sealed vessel with 2 mL DMSO. Argon was bubbled through the mixture for 1 minute. [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (12 mg, 0.015 mmol) was added. Argon was continuted to bubble through the mixture for one more minute and the lid was tightly closed. This was heated at 80° C. for 18 hours. This was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, concentrated in vacuo, and purified by flash chromatography (30% ethyl acetate/hexanes) to yield 6-Dimethylamino-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-3,4-dihydro-2H-isoquinolin-1-one (137 mg, 0.349 mmol). MS (ESI) 393.2 (M+H)+.

reactant | 2-(3-Bromo-phenyl)-6-dimethylamino-3,4-dihydro-2H-isoquinolin-1-one | 0.472 mmol, 163 mg | BrC=1C=C(C=CC1)N1C(C2=CC=C(C=C2CC1)N(C)C)=O | C17H17BrN2O
reactant | bis(pinacolato)diboron | 0.567 mmol, 144 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.42 mmol, 138 mg | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.015 mmol, 12 mg | ClCCl | CH2Cl2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 6-Dimethylamino-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-3,4-dihydro-2H-isoquinolin-1-one | 0.349 mmol, 137 mg | CN(C=1C=C2CCN(C(C2=CC1)=O)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C23H29BN2O3
